US05089526
--A solution of racemic sotalol (24.5 g., 0.09 mole) (obtained by neutralizing sotalol hydrochloride in ethanol with a mole equivalent of concentrated sodium hydroxide, concentration and extraction of the free base in acetonitrile) in 200 ml. of hot isopropanol was mixed with 13.7 g (0.09 mole) of 1-mandelic acid. On cooling, an optically enriched fraction, 26.0 g., m.p. 125-140°, [α]D25 -27.2°, of the d-sotalol·1-mandelate salt was obtained. Crystallization from isopropanol (300 ml.) afforded 18.7 g., m.p. 139-145.5°, [α]D25 -25.4°. Further recrystallization of this material from 1:1 isopropanol-absolute ethanol provided d-sotalol.1-mandelate as white fluffy needles, m.p. 154.5≥156°, [α]D25 -14. 2°.

reactant | sotalol hydrochloride | CC(C)NCC(C=1C=CC(=CC1)NS(=O)(=O)C)O.Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | sotalol | 0.09 mole, 24.5 g | CC(C)NCC(C=1C=CC(=CC1)NS(=O)(=O)C)O | C12H20N2O3S
